US04874902
Preparation of (Cl3C)2CHOCH3
A 50% NaOH solution, 9.9 g (0.12 mole), was added to a mixture of 33.0 g (0.12 mole) of 1,1,1,3,3,3-hexachloro-2-propanol and 44.5 g (2.47 moles) of water at 0°-10° C. over 30 minutes. This cold mixture was warmed to room temperature and 15.6 g (0.12 mole) of dimethyl sulfate was added slowly at 20°-25° C. over 30 minutes. The reaction mixture was stirred for another 2 hours at room temperature. The crude product was washed with dilute NaOH solution, water and saturated NaCl solution to yield 29.5 g of a colorless liquid. Fractional distillation of the liquid at 93°-93.5° C. and 5 mm Hg gave 26.2 g of the methyl ether at 98.7% purity by GC analysis. This represents a 74.5% yield. The product was purified further by a second distillation to afford greater than 99.6% of purity. Elemental analysis: C4H4Cl6O Calculated C 17.11%, H 1.43%, Cl 75.75%. Found C 17.03%, H 1.43%, Cl 75.31%. ηD20 1.5195.

reactant | NaOH | [OH-].[Na+]
reactant | 1,1,1,3,3,3-hexachloro-2-propanol | 0.12 mole, 33.0 g | ClC(C(C(Cl)(Cl)Cl)O)(Cl)Cl | C3H2Cl6O
reactant | water | 2.47 moles, 44.5 g | O | H2O
reactant | dimethyl sulfate | 0.12 mole, 15.6 g | S(=O)(=O)(OC)OC | C2H6O4S
product | (Cl3C)2CHOCH3 | 29.5 g, 74.5% yield | C(C(Cl)(Cl)Cl)(C(Cl)(Cl)Cl)OC | C4H4Cl6O
